US07291631B2
COMPOUND 175: (3,5-dimethyl-pyridin-2-ylmethyl)-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-[2-(1H-imidazol-4-yl)ethyl]-amine
To a solution of (3,5-dimethyl-pyridin-2-ylmethyl)-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-{2-[1-{toluene-4-sulfonyl)-1H-imidazol-4-yl]-ethyl}-amine (87.3 mg, 0.143 mmol) in anhydrous MeOH (1.5 mL) was added HOBT (77.1 mg, 0.57 mmol). After stirring overnight the reaction mixture was concentrated. Purification by radial chromatography on silica gel using 5% MeOH/CH2Cl2 afforded COMPOUND 175 (36 mg, 55%) as a clear oil. 1H NMR (CDCl3) δ 1.65 (s, 6H), 1.97 (s, 3H), 2.20 (s, 3H), 2.53 (s, 4H), 3.30 (s, 2H), 3.37 (s, 2H), 6.63 (s, 1H), 6.88 (t, 2H, J=8.52 Hz), 7.04 (m, 3H), 7.30 (m, 1H), 7.61 (s, 1H), 7.93 (d, 1H, J=7.91 Hz), 8.05 (s, 1H), 8.55 (d, 1H, J=3.58 Hz). 13C NMR (CDCl3) δ 18.1, 18.2, 22.8, 31.4, 42.4, 53.3, 57.8, 58.8, 115.5, 115.8, 122.4, 124.1, 127.5, 127.6, 130.2, 132.1, 132.6, 134.5, 134.7, 139.2, 144.0, 145.4, 146.4, 146.5, 153.4, 158.5, 159.8. ES-MS m/z 458 [M+H]+. Anal. Calcd. for C28H32FN5.1.1 H2O.0.3 CH2Cl2: C, 73.49; H 7.05, N 15.30, Found: C, 70.02; H, 7.02; N, 14.87.

reactant | (3,5-dimethyl-pyridin-2-ylmethyl)-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-{2-[1-{toluene-4-sulfonyl)-1H-imidazol-4-yl]-ethyl}-amine | 0.143 mmol, 87.3 mg | CC=1C(=NC=C(C1)C)CN(CCC=1N=CN(C1)S(=O)(=O)C1=CC=C(C=C1)C)CC1=NC=CC=C1C(C)(C)C1=CC=C(C=C1)F | C35H38FN5O2S
reactant | HOBT | 0.57 mmol, 77.1 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | MeOH | 1.5 mL | CO | CH4O
product | (3,5-dimethyl-pyridin-2-ylmethyl)-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-[2-(1H-imidazol-4-yl)ethyl]-amine | CC=1C(=NC=C(C1)C)CN(CCC=1N=CNC1)CC1=NC=CC=C1C(C)(C)C1=CC=C(C=C1)F | C28H32FN5
